US04061641
1-Benzoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]thiourea
To a stirred solution of ammonium thiocyanate (2.28g) in dry acetone (20 ml) was added a solution of benzoyl chloride (4.22g) in dry acetone (20 ml). This mixture was stirred at 45° for 5 min. then treated with a solution of 3-[2-(4-aminopiperidyl)-ethyl]indole (7.84g) in dry acetone (30 ml). After refluxing for 25 min, the mixture was cooled, poured into water (250 ml) and the liberated oil extracted into chloroform. Evaporation of the dried (MgSO4) extract afforded the title compound which was crystallised from EtOH-HCl/Et2O as the hydrochloride (1.65 g), m.p. 212°-215°.

reactant | ammonium thiocyanate | 2.28g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 4.22g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-[2-(4-aminopiperidyl)-ethyl]indole | 7.84g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | water | 250 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-Benzoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C23H26N4OS
